US04340600
A mixture of 1.0 g of 8-hydroxy-1-(3,4-dihydroxyphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide prepared as in Example 4 above and 200 ml of trifluoroacetic acid is mixed with 1.3 ml of acetyl bromide. After heating at reflux for 2 hours, the mixture is evaporated to dryness. The residue is purified by recrystallization to give 8-acetoxy-1-(3,4-diacetoxyphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide. Similarly isobutyryloxy, propionyloxy, isovaleryloxy, n-butylryloxy and n-heptanoyloxy derivatives are prepared.

reactant | 8-hydroxy-1-(3,4-dihydroxyphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | 1.0 g | Br.OC=1C=CC=C2CCN(C(C12)C1=CC(=C(C=C1)O)O)C
reactant | acetyl bromide | 1.3 ml | C(C)(=O)Br | C2H3BrO
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 8-acetoxy-1-(3,4-diacetoxyphenyl)-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.C(C)(=O)OC=1C=CC=C2CCN(C(C12)C1=CC(=C(C=C1)OC(C)=O)OC(C)=O)C | InChI=1S/C22H23NO6.BrH/c1-13(24)27-18-9-8-17(12-20(18)29-15(3)26)22-21-16(10-11-23(22)4)6-5-7-19(21)28-14(2)25;/h5-9,12,22H,10-11H2,1-4H3;1H
